US07247626B2
To a solution of 2-(4-fluorophenyl)-7-(methylsulfanyl)pyrazolo[1,5-c]pyrimidine (150 mg, 0.58 mmol) in toluene (10 mL) was added acetic anhydride (0.065 mL, 0.69 mmol), followed by boron trifluoride diethyl etherate (0.080 ml, 0.64 mmol). An additional 10 mL of toluene was added and the mixture heated to 90° C. Acetonitrile (10 mL) was added to the reaction and the mixture heated at 70° C. for additional 16 hours. Additional acetic anhydride (0.11 mL, 1.1 mmol) and boron trifluoride diethyl etherate (0.15 ml, 1.2 mmol) were added dropwise to the reaction mixture at 90° C. The reaction was stirred for 1 hour, cooled to room temperature, stirred for 16 hours, and partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The ethyl acetate layer was washed with brine, dried over magnesium sulfate, filtered, concentrated, and the residue purified by silica gel chromatography eluting with 10% ethyl acetate in hexanes to yield 110 mg (63%) of 1-[2-(4-fluorophenyl)-7-(methylsulfanyl)pyrazolo[1,5-c]pyrimidin-3-yl]ethanone. 1H NMR (CDCl3): δ 8.13 (d, 1H), 7.98 (d, 1H), 7.65 (dd, 2H), 7.27 (m, 2H), 2.77 (s, 3H), 2.23 (s, 3H). MS m/z 302 (M+1).

reactant | 2-(4-fluorophenyl)-7-(methylsulfanyl)pyrazolo[1,5-c]pyrimidine | 0.58 mmol, 150 mg | FC1=CC=C(C=C1)C1=NN2C(=NC=CC2=C1)SC | C13H10FN3S
reactant | acetic anhydride | 0.69 mmol, 0.065 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | boron trifluoride diethyl etherate | 0.64 mmol, 0.080 ml | B(F)(F)F.CCOCC
reactant | Acetonitrile | 10 mL | C(C)#N | C2H3N
reactant | acetic anhydride | 1.1 mmol, 0.11 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | boron trifluoride diethyl etherate | 1.2 mmol, 0.15 ml | B(F)(F)F.CCOCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(4-fluorophenyl)-7-(methylsulfanyl)pyrazolo[1,5-c]pyrimidin-3-yl]ethanone | 110 mg, 63% | FC1=CC=C(C=C1)C1=NN2C(=NC=CC2=C1C(C)=O)SC | C15H12FN3OS
